US07867992B2
4-Bromo-2-chlorobenzylamine hydrochloride
46.2 ml of borane-THF complex are provided under ice cooling. A solution of 2.0 g of 4-bromo-4-chlorobenzonitrile in 240 ml of THF is added slowly. The reaction mixture is then heated for 1 h under reflux, cooled and 20 ml of 1N hydrochloric acid are added dropwise while cooling on ice. The mixture is heated under reflux for 1 h and left to cool. For the work-up the solution is adjusted to an alkaline pH with a 1N sodium hydroxide solution and extracted with dichloromethane. The organic phase is dried over sodium sulfate and concentrated on a rotary evaporator. 6 ml of hydrochloric acid in dioxane (4N) are added and the precipitated hydrochloride is collected by suction filtration. 1.3 g of product are obtained.

reactant | 4-bromo-4-chlorobenzonitrile | 2.0 g | BrC1(CC=C(C#N)C=C1)Cl | C7H5BrClN
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | THF | 240 ml | C1CCOC1 | C4H8O
product | 4-Bromo-2-chlorobenzylamine hydrochloride | 1.3 g | Cl.BrC1=CC(=C(CN)C=C1)Cl | InChI=1S/C7H7BrClN.ClH/c8-6-2-1-5(4-10)7(9)3-6;/h1-3H,4,10H2;1H
